US07786114B2
To a solution of 1 g of [2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine-4-carbaldehyde in 50 cm3 of pyridine, at a temperature in the region of 20° C., is added 0.46 g of hydroxylamine hydrochloride. The reaction medium is heated at 50° C. for 24 hours. The reaction medium is concentrated under reduced pressure. The residue obtained is taken up in 20 cm3 of water and 50 cm3 of dichloromethane. After separation of the phases by settling, the organic phase is dried over magnesium sulfate, filtered and then concentrated under reduced pressure. 0.510 g of [2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-carbaldehyde oxime is obtained with the following characteristics:

reactant | 2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine-4-carbaldehyde | COC1=C(C=C2C(=N1)C(=CN2C)C2=CC1=C(N=CC=C1C=O)N2S(=O)(=O)C2=CC=C(C=C2)C)OC | C25H22N4O5S
reactant | hydroxylamine hydrochloride | 0.46 g | Cl.NO
solvent | pyridine | 50 cm3 | N1=CC=CC=C1 | C5H5N
solvent | water | 20 cm3 | O | H2O
solvent | dichloromethane | 50 cm3 | ClCCl | CH2Cl2
product | 2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-carbaldehyde oxime | COC1=C(C=C2C(=N1)C(=CN2C)C2=CC1=C(N=CC=C1C=NO)N2S(=O)(=O)C2=CC=C(C=C2)C)OC | C25H23N5O5S
